US07994196B2
1-(tert-Butoxycarbonyl)-4-piperidone (2.19 g) was dissolved in tetrahydrofuran (30 ml) and the mixture was cooled to 0° C. 3-Fluorophenylmagnesiumbromide (Tokyo Chemical Industry CO., LTD., 1M, 13.2 ml) was added and the mixture was stirred for 6 hr. After completion of the reaction, a saturated aqueous ammonium chloride solution was added, and the mixture was extracted three times with ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (5:1-2:1)). Then, 4N hydrochloric acid-ethyl acetate (10 ml) was added and the mixture was stirred for 3 hr. Diethyl ether was added and the precipitated solid was collected by filtration to give 4-(3-fluorophenyl)piperidin-4-ol hydrochloride (902 mg, yield 35%).

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 2.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 3-Fluorophenylmagnesiumbromide | 1M, 13.2 ml | FC=1C=C(C=CC1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(3-fluorophenyl)piperidin-4-ol hydrochloride | 902 mg, yield 35% | Cl.FC=1C=C(C=CC1)C1(CCNCC1)O | InChI=1S/C11H14FNO.ClH/c12-10-3-1-2-9(8-10)11(14)4-6-13-7-5-11;/h1-3,8,13-14H,4-7H2;1H
